US06831164B2
2,3,4,6-Tetra-O-acetyl-1-O-(10-carboxydecyl)-glucopyranose
A mixture that consists of 34.83 g (100 mmol) of 2,3,4,6-tetra-O-acetylglucopyranose, 0.55 g (5 mmol) of tetramethylammonium chloride and 12.42 g (100 mmol) of DBN in 350 ml of benzene is cooled to 0° C. At 0° C., 53.30 g (150 mmol) of 11-bromoundecanoic acid benzyl ester, dissolved in 50 ml of benzene, is added in drops over 30 minutes while being stirred vigorously. It is stirred for two hours at 20° C. 250 ml of methyl-tert-butyl ether is added, solid is filtered out, and the filtrate is evaporated to the dry state in a vacuum. The residue is taken up in 500 ml of ethanol. 5 g of palladium (10%) on activated carbon is added thereto and hydrogenated until hydrogen absorption is completed. Catalyst is filtered out, it is rewashed with a little ethanol, and the combined solutions are evaporated to the dry state in a vacuum. The residue is chromatographed on silica gel (mobile solvent: dichloromethane/n-hexane/ethanol/acetic acid=20:5:3:0.5). The product-containing fractions are concentrated by evaporation, dissolved in 400 ml of ethyl acetate and shaken out three times with 200 ml of water. Then, the organic phase is separated and evaporated to the dry state in a vacuum.

reactant | 2,3,4,6-tetra-O-acetylglucopyranose | 100 mmol, 34.83 g | C(C)(=O)O[C@H]1C(O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C14H20O10
reactant | DBN | 100 mmol, 12.42 g | C1CC2=NCCCN2C1 | C7H12N2
reactant | 11-bromoundecanoic acid benzyl ester | 150 mmol, 53.30 g | C(C1=CC=CC=C1)OC(CCCCCCCCCCBr)=O | C18H27BrO2
reactant | methyl-tert-butyl ether | 250 ml | COC(C)(C)C | C5H12O
catalyst | tetramethylammonium chloride | 5 mmol, 0.55 g | [Cl-].C[N+](C)(C)C
solvent | benzene | 350 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2,3,4,6-Tetra-O-acetyl-1-O-(10-carboxydecyl)-glucopyranose | C(C)(=O)O[C@H]1C(OCCCCCCCCCCC(=O)O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C25H40O12
